US05210205
a) Preparation of 2-methoxymethyl-4-methylthiazole-5-carboxylic acid ethyl ester
20 g of methoxythioacetamide are added, with vigorous stirring, to 31.3 g of 2-chloroacetoacetic acid ethyl ester in 400 ml of benzene at room temperature and then, using a water separator, heated under reflux for 41/2 hours. After cooling to room temperature, the benzenic reaction solution is diluted with 500 ml of ethyl acetate, washed twice using 80 ml of 10% sodium carbonate solution each time and twice using 50 ml of water each time, dried over sodium sulfate and filtered. The solvent mixture is evaporated off. The yellow oil that remains is crystallised by trituration with diisopropyl ether. The beige-coloured crystals melt at 36°-37° C.

reactant | methoxythioacetamide | 20 g | COCC(=S)N | C3H7NOS
reactant | 2-chloroacetoacetic acid ethyl ester | 31.3 g | C(C)OC(C(C(=O)C)Cl)=O | C6H9ClO3
reactant | water | O | H2O
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 2-methoxymethyl-4-methylthiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(S1)COC)C | C9H13NO3S
